* cdac_unit_cell.lvs-reference.spice -- GENERATED, do not edit by hand.
*
* Regenerate with: layout/cdac-array/bin/generate-lvs-reference.py
* Source of truth: design/cdac/cdac_unit_cell.sch (issue #53), netlisted headlessly
* by xschem and rewritten into `klt extract --deck sky130`'s own device
* vocabulary. See that script's docstring for the three rewrites and why
* each is a change of vocabulary rather than of topology.
*
* Unit capacitor: the schematic sizes the MiM plate W=L=1.8988 um; the
* drawn plate is the nearest 1 nm-grid square, 1.898 um, whose
* capacitance under the extraction deck's own published coefficients
* (area 2.0 fF/um^2, perimeter 0.19 fF/um) is
* C_unit = 8.647288000e-15 F. A bit of weight w carries `MF=w` in the
* schematic and w drawn unit capacitors in the layout, so its reference is
* w separate C cards of C_unit each -- one per physically drawn unit,
* compared 1:1 against the layout's own w extracted unit devices with no
* `klt lvs` `combine_devices` folding needed on either side (issue #148:
* `Netlist.combine_devices()` does not reliably re-sum w identical-valued
* parallel capacitors into one device for w in the hundreds).
*
* Substrate: the schematic's VSS (every nfet bulk) appears here as
* `vsubs`, the name the sky130 extraction deck gives its
* synthesized global substrate net.
.SUBCKT cdac_unit_cell TOP BOT SEL VREFP VREFN VDD vsubs
C1 BOT TOP 8.647288000e-15 sky130_fd_pr__model__cap_mim
M1 BOT SEL VREFN vsubs nfet L=0.15U W=1U
M2 BOT SEL VREFP VDD pfet L=0.15U W=2U
.ENDS cdac_unit_cell
